************************************************************
* Auto-generated from logic_3input_P_CLASS_4stack_8_to_8.log
* function idx   : 8
* truth table    : 01101000
* stack setting  : 4
* #transistors   : 15
* #nets          : 12
* #stages        : 2
* Pin order fixed to: A B C VDD VSS Z
************************************************************
.SUBCKT THREEINPUT_4STACK_TT01101000 A B C VDD VSS Z

MM0 n4 A VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 n1 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n4 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 n3 C VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 n2 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 n3 C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 n4 B n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 n5 n3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 Z A n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 Z C n4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM10 Z n4 n5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 n6 A n3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 n6 B n3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 Z n3 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM14 Z n4 n6 VDD pmos_rvt w=46.0n l=16n nfin=2

.ENDS
